US09340506B2
2-{2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-5-fluoro-thiazol-4-yl}-2-methyl-propionic acid ethyl ester
Under anhydrous condition n-BuLi (3.6 M solution in hexane, 2.55 mL, 9.20 mmol) was added to stirred solution of N,N-Diisopropyl amine (1.29 mL, 9.20 mmol) in 10 mL dry THF at −78° C. and reaction mixture was stirred for 1 hr. A solution of 2-{2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-2-methyl-propionic acid ethyl ester (synthesized as per preparation 44; 2.0 g, 4.60 mmol) in 10 mL of dry THF was added dropwise to above reaction mixture and continued to stir for an additional 1 hr at −78° C. N-Fluorobenzenesulfonimide (2.17 g, 6.90 mmol) dissolved in 10 mL dry THF was added to reaction mixture dropwise and resulted reaction mixture was allowed to warm 0° C. within 3 hrs. Reaction mixture was poured on aq. saturated solution of NH4Cl (50 mL), mixture was then extracted with (3×50 mL) ethyl acetate; organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and washed with ethyl acetate and solvent was removed under reduced pressure. The crude material was purified by silica-gel column chromatography (4% ethyl acetate in hexane) to afford pure compound (0.5 g).

reactant | n-BuLi | 9.20 mmol, 3.6 M, 2.55 mL | [Li]CCCC
reactant | N,N-Diisopropyl amine | 9.20 mmol, 1.29 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-{2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-thiazol-4-yl}-2-methyl-propionic acid ethyl ester | 4.60 mmol, 2.0 g | C(C)OC(C(C)(C)C=1N=C(SC1)N(CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C)=O | C22H30N2O5S
reactant | N-Fluorobenzenesulfonimide | 6.90 mmol, 2.17 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-{2-[tert-Butoxycarbonyl-(4-methoxy-benzyl)-amino]-5-fluoro-thiazol-4-yl}-2-methyl-propionic acid ethyl ester | 0.5 g | C(C)OC(C(C)(C)C=1N=C(SC1F)N(CC1=CC=C(C=C1)OC)C(=O)OC(C)(C)C)=O | C22H29FN2O5S
